Vaja 4

vp 4 0 dc = 5
vn 5 0 dc = -5
*vin 1 0 dc = 0 sin = (0, 0.5, 5k)
vin 1 0 dc = 0	sin = (0, 0, 5k)
vtest 7 0 dc = 0 sin = (0, 1, 5k)

rsrc 1 2 r = 10k
r1 3 4 r = 242k
r2 3 5 r = 395k
re 5 6 r = 10k
rl 7 0 r = 2k
*rl 7 0 r = 20k

c1 2 3 c = 100u
c2 6 7 c = 100u

*q_q1 c b e model
*.include models.inc
q_q1  4 3 6 BC238B
.MODEL BC238B NPN IS=1.8E-14 ISE=5.0E-14 NF=.9955 NE=1.46 BF=400 BR=35.5
+ IKF=.14 IKR=.03 ISC=1.72E-13 NC=1.27 NR=1.005 RB=.56 RE=.6 RC=.25 VAF=80
+ VAR=12.5 CJE=13E-12 TF=.64E-9 CJC=4E-12 TR=50.72E-9 VJC=.54 MJC=.33

.control
	destroy all

	echo ------OP1-------
	op
	let ieq = v(6,5)/@re[r]
	let icq = v(6,5)/@re[r]*(149/150)
	let vceq = v(4,6)
	let vbeq = v(3,6)
	
	print ieq icq vceq vbeq
	

	echo ------TRAN1------
    tran 1u 5m
    	
	let ieq = v(6,5)/@re[r]
	let icq = v(6,5)/@re[r]*(149/150)
	let vceq = v(4,6)
	let vbeq = v(3,6)
	let vout = v(7)
	let vin = v(1)
	
   	*fourier 5k vout

	*izhodna upornost
	let vv = v(7)

	let ii = i(vtest)

	let iipp = max(ii) - min (ii)

	let vvpp = max(vv) - min(vv)
	let rout = vvpp/iipp

	*print rout
	*plot vv ii
	*plot vin v(7)

	let vinpp = max(vin)-min(vin)
	let voutpp = max(vout)-min(vout)
	let av = voutpp/vinpp
	print av
	let ans = 8.708423/9.25503
	print ans

	let iin = v(1,2)/@rsrc[r]
	let iiout = v(7)/@rl[r]
	let iinpp = max(iin) - min(iin)
	let ioutpp = max(iiout) - min(iiout)
	let ai = ioutpp/iinpp
	print ai
	
.endc
 
.end
